US09260429B2
(B) {2-[5-Chloro-1-(2-cyclopentyl-ethyl)-1H-indol-3-yl]-ethyl}-methyl-amine
28% aqueous HCl (0.3 mL, 2.26 mmol) was added to a solution of N-(4-Chloro-phenyl)-N-(2-cyclopentyl-ethyl)-hydrazine (0.54 g, 2.26 mmol) in ethanol (2.5 mL) and water (1 mL) under a nitrogen atmosphere. The reaction was heated to 60° C. (oil bath temperature) and 4,4-diethoxy-N-methylbutan-1-amine (0.32 g, 1.84 mmol) was added. The reaction was heated to reflux and 28% aqueous HCl (0.15 mL, 1.13 mmol) was added. The reaction was heated at reflux for 2.5 h. The reaction was cooled to 60° C. and then more 4,4-diethoxy-N-methylbutan-1-amine (0.32 g, 1.84 mmol) was added. The reaction was heated to reflux and then more 28% aqueous HCl (0.15 mL, 1.13 mmol) was added. The reaction was heated to reflux for a further 3.5 h. The reaction was cooled and concentrated under reduced pressure. The red brown residue was subjected to column chromatography (silica gel, eluent: EtOAc followed by EtOAc:EtOH:NH4OH 90:10:1) to give the product (0.318 g, 46%).

reactant | HCl | 2.26 mmol, 0.3 mL | Cl | ClH
reactant | N-(4-Chloro-phenyl)-N-(2-cyclopentyl-ethyl)-hydrazine | 2.26 mmol, 0.54 g | ClC1=CC=C(C=C1)N(N)CCC1CCCC1 | C13H19ClN2
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 1.84 mmol, 0.32 g | C(C)OC(CCCNC)OCC | C9H21NO2
reactant | HCl | 1.13 mmol, 0.15 mL | Cl | ClH
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 1.84 mmol, 0.32 g | C(C)OC(CCCNC)OCC | C9H21NO2
reactant | HCl | 1.13 mmol, 0.15 mL | Cl | ClH
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | {2-[5-Chloro-1-(2-cyclopentyl-ethyl)-1H-indol-3-yl]-ethyl}-methyl-amine | 0.318 g, 46% | ClC=1C=C2C(=CN(C2=CC1)CCC1CCCC1)CCNC | C18H25ClN2
